US08629271B2
a) Ethyl 9-bromo-2,2-dimethylnonanoate
To a solution of diisopropylamine (5.82 mL) in THF (30 mL) was added n-butyllithium (2.5M in hexanes, 16.4 mL) at 0° C. and the mixture was stirred for 30 min at this temperature before being cooled to −78° C. Ethyl isobutyrate (5 mL) was added dropwise and the resultant mixture was stirred at −78° C. for 1 h before addition of 1,7-dibromoheptane (6.4 mL). The reaction mixture was stirred at −78° C. for 1 h then at RT for 2 h before being poured into saturated ammonium chloride solution. The solution was extracted with ethyl acetate (×2) then the combined organics were washed with brine, dried over sodium sulphate, filtered and evaporated in vacuo. Purification was by silica gel chromatography eluting with 0-10% ethyl acetate in cyclohexane to give the subtitled compound as a colourless liquid. Yield 1.27 g.

reactant | diisopropylamine | 5.82 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5M, 16.4 mL | C(CCC)[Li]
reactant | Ethyl isobutyrate | 5 mL | C(C(C)C)(=O)OCC | C6H12O2
reactant | 1,7-dibromoheptane | 6.4 mL | BrCCCCCCCBr | C7H14Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Ethyl 9-bromo-2,2-dimethylnonanoate | BrCCCCCCCC(C(=O)OCC)(C)C | C13H25BrO2
